US07906532B2
Step 1. 6-[(4-Hydroxytetrahydro-2H-pyran-4-yl)methyl]pyridin-3-ol
To a stirred suspension of 6-methylpyridin-3-ol (5.01 g, 45.9 mmol) in tetrahydrofuran (200 mL) was added n-butyllithium solution (1.6 M in n-hexane, 63 mL, 101 mmol) dropwise at −20° C. After addition, the mixture was allowed to warm to room temperature and stirred at the same temperature for 1 h. Then the mixture was cooled to −78° C., and tetrahydro-4H-pyran-4-one (5.06 g, 50.5 mmol) was added dropwise. The mixture was allowed to warm to room temperature over 20 h. The mixture was quenched with acetic acid (11.6 mL) and concentrated under reduced pressure. The resulting residue was chromatographed on a column of silica gel eluting with acetone/n-hexane (1:1 to 2:1) to give 7.87 g (82%) of the title compound as a yellow oil.

reactant | 6-methylpyridin-3-ol | 45.9 mmol, 5.01 g | CC1=CC=C(C=N1)O | C6H7NO
reactant | n-butyllithium | 101 mmol, 1.6 M, 63 mL | C(CCC)[Li]
reactant | tetrahydro-4H-pyran-4-one | 50.5 mmol, 5.06 g | O1CCC(CC1)=O | C5H8O2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-[(4-Hydroxytetrahydro-2H-pyran-4-yl)methyl]pyridin-3-ol | 7.87 g, 82% | OC1(CCOCC1)CC1=CC=C(C=N1)O | C11H15NO3
